US08222248B2
3-{3,5-Dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-indol-2-yl]-phenyl}-propionic acid hydrochloride salt
To a solution of 3-{3,5-dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-indol-2-yl]-phenyl}-propionic acid tert-butyl ester (139 mg, 0.25 mmol) in DCM (1 mL) was added HCl (4M in 1,4-dioxane, 1 mL) and the solution was stirred for 2 h, after which more HCl (4M in 1,4-dioxane, 2 mL) was added. The mixture was stirred for 18 h then the solvent was removed under reduced pressure and the remaining solid was triturated with ether to obtain the title compound as a yellow solid. MS (m/z) 504.1 (M+1); 1H NMR (DMSO-d6, 400 MHz) δ 11.83 (s, 1H), 11.14 (s, broad, 1H), 8.44 (d, J=9.17 Hz, 1H), 8.36 (d, J=8.98 Hz, 1H), 7.97 (dd, J=8.21, 0.88 Hz, 1H) 8.21 (s, 1H), 7.92 (d, J=8.34 Hz, 1H), 7.80 (dd, J=8.40, 1.58 Hz, 1H), 7.76 (td, J=7.71, 1.39 Hz, 1H), 7.69 (d, J=8.34 Hz, 1H), 7.53 (m, 1H) 7.56 (s, 2H), 6.59 (dd, J=1.89, 0.76 Hz, 1H), 2.91 (t, J=7.39 Hz, 2H), 2.63-2.68 (m, 2H).

reactant | 3-{3,5-dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-indol-2-yl]-phenyl}-propionic acid tert-butyl ester | 0.25 mmol, 139 mg | C(C)(C)(C)OC(CCC1=CC(=C(C(=C1)Cl)C=1NC2=CC(=CC=C2C1)C(NC1=NC2=CC=CC=C2C=C1)=O)Cl)=O | C31H27Cl2N3O3
reactant | HCl | 4M, 1 mL | Cl | ClH
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-{3,5-Dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-indol-2-yl]-phenyl}-propionic acid hydrochloride salt | Cl.ClC=1C=C(C=C(C1C=1NC2=CC(=CC=C2C1)C(NC1=NC2=CC=CC=C2C=C1)=O)Cl)CCC(=O)O | InChI=1S/C27H19Cl2N3O3.ClH/c28-19-11-15(5-10-25(33)34)12-20(29)26(19)23-13-17-6-7-18(14-22(17)30-23)27(35)32-24-9-8-16-3-1-2-4-21(16)31-24;/h1-4,6-9,11-14,30H,5,10H2,(H,33,34)(H,31,32,35);1H
